US08937071B2
The reaction mixture of 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-2-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide (20 mg, 0.033 mmol) and Pd/C (3.49 mg, 0.033 mmol) in MeOH (3 mL) was stirred at 20° C. for 20 min under a H2 atmosphere. Then the solution was concentrated and purified by preparative HPLC (MeCN/H2O as eluants, acidic condition) to yield a white solid of 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide (11.88 mg, 0.022 mmol, 67.7% yield): 1H NMR (400 MHz, CD3OD) δ 7.95 (d, J=1.98 Hz, 1H), 7.79 (s, 1H), 7.71 (dd, J=8.49, 1.87 Hz, 1H), 7.40-7.46 (m, 2H), 7.25-7.32 (m, 2H), 6.37 (s, 1H), 4.24 (q, J=6.84 Hz, 2H), 3.82 (s, 2H), 3.35 (br. s., 2H), 2.77 (s, 2H), 1.41 (t, J=6.95 Hz, 3H), 0.83 (s, 6H); ES-LCMS m/z 521 (M+H).

reactant | 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-2-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide | 0.033 mmol, 20 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=N1)C1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(CO)(C)C)C(F)(F)F)F)OCC | C34H34F4N2O4
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Pd/C | 0.033 mmol, 3.49 mg | [Pd] | Pd
product | 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide | 0.022 mmol, 11.88 mg, 67.7% yield | C(C)OC=1C(=CNC(C1)=O)C1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(CO)(C)C)C(F)(F)F)F | C27H28F4N2O4
